US04263207
Methyl 10,11-dihydrodibenzo[b,f][1,4]thiazepin-3-carboxylate
Suspend 3.035 gm. (10 mmole) of methyl 11-chlorodibenzo[b,f][1,4]thiazepin-3-carboxylate in 30 ml. of solfolane (tetrahydrothiophene 1,1-dioxide) and add 766 mg. (20 mmole) of sodium borohydride in small portions with stirring. Stir at room temperature for 3 hours, add a further 190 mg. (5 mmole) of sodium borohydride and continue stirring for 1 hour. Pour the reaction mixture into 100 ml. of ice-water. Extract with three 50 ml. portions of dry ether. Wash the ether extract twice with 50 ml. portions of saturated aqueous sodium chloride, dry over magnesium sulfate and evaporate to a residue. Chromatograph the residue over 100 gm. of silica gel eluting with 1:9 ethyl acetate in toluene. Recrystallize the recovered product from acetonitrile to obtain the title product. (m.p. 149°-150° C.).

reactant | methyl 11-chlorodibenzo[b,f][1,4]thiazepin-3-carboxylate | 10 mmole | ClC1=NC2=C(SC3=C1C=CC(=C3)C(=O)OC)C=CC=C2 | C15H10ClNO2S
reactant | tetrahydrothiophene 1,1-dioxide | S1(CCCC1)(=O)=O | C4H8O2S
reactant | sodium borohydride | 20 mmole | [BH4-].[Na+]
reactant | sodium borohydride | 5 mmole | [BH4-].[Na+]
product | Methyl 10,11-dihydrodibenzo[b,f][1,4]thiazepin-3-carboxylate | C1=CC(=CC2=C1CNC1=C(S2)C=CC=C1)C(=O)OC | C15H13NO2S
